US08212045B2
To a solution of (R)-2,2-dimethyl-1,3-dioxolane-4-carbaldehyde oxime (10.3 g, 71.0 mmol) in 40 mL DMF was added 1-chloropyrrolidine-2,5-dione (10.4 g, 78.1 mmol) and the reaction was stirred overnight at ambient temperature. The reaction mixture was poured into ether (1400 mL) and water (500 mL). The ether layer was extracted with water (5×500 mL), dried over MgSO4, filtered and concentrated to (S)-N-hydroxy-2,2-dimethyl-1,3-dioxolane-4-carbimidoyl chloride (10.0 g, 55.7 mmol, 78.5% yield) as white solid.

reactant | (R)-2,2-dimethyl-1,3-dioxolane-4-carbaldehyde oxime | 71.0 mmol, 10.3 g | CC1(OC[C@H](O1)C=NO)C | C6H11NO3
reactant | 1-chloropyrrolidine-2,5-dione | 78.1 mmol, 10.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ether | 1400 mL | CCOCC | C4H10O
reactant | water | 500 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (S)-N-hydroxy-2,2-dimethyl-1,3-dioxolane-4-carbimidoyl chloride | 55.7 mmol, 10.0 g, 78.5% yield | ON=C([C@H]1OC(OC1)(C)C)Cl | C6H10ClNO3
